US04405781
A mixture of 6-chloropurine (2.5 g, 0.016 mole) and n-dodecylamine (7.4 g, 0.04 mole) in 40 ml. of n-propanol was refluxed for 5 hours. The reaction mixture was stirred at room temperature for 1 hour and cooled with water (15° C.) for another hour. The product was collected by filtration, washed by two 5 ml. portions of n-propanol and dried in a vacuum oven overnight to give 4.5 g (92% yield) of 6-n-dodecylaminopurine, a colorless solid, m.p. 159°-160° C., λ max (H2O)=268 nm, ε=17.3×103.

reactant | 6-chloropurine | 0.016 mole, 2.5 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | n-dodecylamine | 0.04 mole, 7.4 g | C(CCCCCCCCCCC)N | C12H27N
reactant | n-propanol | C(CC)O | C3H8O
solvent | water | O | H2O
product | 6-n-dodecylaminopurine | 4.5 g, 92% yield | C(CCCCCCCCCCC)NC1=C2NC=NC2=NC=N1 | C17H29N5
